US05136091
401 mg (2 mmol) of (1-cyanocyclohexyl)acetic acid ethyl ester, 1.09 g (10 mmol) of benzyl alcohol and 6 mg (0.1 mmol) of potassium cyanide were refluxed for 24 hours in 5 ml of toluene. Then the solution was washed with 25 ml of water, freed of solvent and distilled in high vacuum. 350 mg of (1-cyanocyclohexyl)acetic acid benzyl ester was obtained, corresponding to a yield of 68 percent (relative to the (1-cyanocyclohexyl)acetic acid ethyl ester used). Data for the product was:

reactant | (1-cyanocyclohexyl)acetic acid ethyl ester | 2 mmol, 401 mg | C(C)OC(CC1(CCCCC1)C#N)=O | C11H17NO2
reactant | benzyl alcohol | 10 mmol, 1.09 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | potassium cyanide | 0.1 mmol, 6 mg | [C-]#N.[K+]
product | (1-cyanocyclohexyl)acetic acid benzyl ester | 350 mg, yield of 68 percent | C(C1=CC=CC=C1)OC(CC1(CCCCC1)C#N)=O | C16H19NO2
